US07977331B1
To a solution of 2-[2-(2-bromophenyl)ethoxy]tetrahydropyran (3.58 g, 12.5 mmol) and triisopropyl borate (3.70 ml, 16.1 mmol) in tetrahydrofuran (10.0 ml) was added a solution (10.0 ml) of 1.6M n-butyllithium in hexane at −78° C., and the mixture was stirred for 2 hr while gradually raising the temperature to 0° C. 1N hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (hexane:ethyl acetate=3:1-2:1) to give 2-[2-(tetrahydropyran-2-yloxy)ethyl]phenylboronic acid (1.77 g, yield 56.6%).

reactant | 2-[2-(2-bromophenyl)ethoxy]tetrahydropyran | 12.5 mmol, 3.58 g | BrC1=C(C=CC=C1)CCOC1OCCCC1 | C13H17BrO2
reactant | triisopropyl borate | 16.1 mmol, 3.70 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyllithium | 1.6M, 10.0 ml | C(CCC)[Li]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10.0 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-[2-(tetrahydropyran-2-yloxy)ethyl]phenylboronic acid | 1.77 g, yield 56.6% | O1C(CCCC1)OCCC1=C(C=CC=C1)B(O)O | C13H19BO4
